US20010049441A1
To a THF (1 mL) solution of 3-(1,2,3,5,8,8a-Hexahydro-7-indolizinyl)-1H-5-azaindole (10 mg, 0.0418 mmol) at RT, 1M NaN(TMS)2 (100 μL, 0.1 mmol) was added and the mixture stirred for 10 mins. 2-chlorobenzoyl chloride (13 μL, 0.103 mmol) was added and the reaction mixture stirred overnight. After dilution with dichloromethane, purification by column chromatography with 2% methanol (2M/NH3) in dichloromethane gave 1-(2-chlorobenzoyl)-3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-5-azaindole (8.9 mg, 56.4%).

reactant | 3-(1,2,3,5,8,8a-Hexahydro-7-indolizinyl)-1H-5-azaindole | 0.0418 mmol, 10 mg | C1CCN2CC=C(CC12)C1=CNC2=CC=NC=C12 | C15H17N3
reactant | NaN(TMS)2 | 0.1 mmol, 1M, 100 μL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-chlorobenzoyl chloride | 0.103 mmol, 13 μL | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-(2-chlorobenzoyl)-3-(1,2,3,5,8,8a-hexahydro-7-indolizinyl)-5-azaindole | 8.9 mg, 56.4% | ClC1=C(C(=O)N2C=C(C3=CN=CC=C23)C2=CCN3CCCC3C2)C=CC=C1 | C22H20ClN3O
